Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],4.75112697146
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.94275131233
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][H:8],-1.7715921836900002
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][O:10][H:11]>>[C:7]([H:8])[O:9][O:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],5.8849689131
[C:2]([H:3])([H:4])=[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.23781914131
[H:14].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])=[C:15]([H:16])[H:17]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-1.7629709937400002
[O:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],4.449901676730001
[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.34346244434
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-4.3494150789
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2],5.40699026326
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9],-8.397457998450001
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.9000999007200003
[H:3].[O:1]=[C:2][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.98405189167
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:12]([H:13])[H:14],1.6000101087600005
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9],1.98744686368
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7][H:8]>>[C:7][H:8].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6],2.77220964075
[C:7]([H:8])=[C:9]([H:10])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:11]([H:12])=[C:13][H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-5.19637959607
[C:4]([H:5])[H:6].[H:1][C:2]([H:3])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-4.62959031224
[O:1][C:2]1([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])[H:11],-0.72190765302
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.85508514022
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2],6.384526354119999
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],2.21355290025
[H:1][O:2][C:3]1=[C:4][O:6][C:7]([H:8])[C:9]1([H:10])[H:11].[H:5]>>[H:1][O:2][C:3]1=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]1([H:10])[H:11],-4.81744525735
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9],2.01233101227
[H:1][C:2]#[C:3][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:4][C:5]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-3.76657794305
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.85890683639
[H:11].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.06142432749
